### PR TITLE
[Merged by Bors] - feat(Analysis/Real/Pi/Bounds): `round π = 3`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
The same should hold for `e` (`Real.exp 1`) ~~but we don't seem to have bounds for it.~~

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Real/Pi/Bounds.lean [hunk 1]
```diff
@@ -223,4 +223,21 @@ theorem pi_lt_d20 : π < 3.14159265358979323847 := by
     2-149/278487845640434185590, 2-207/1547570041545500037992, 2-20/598094702046570062987,
     2-7/837332582865198088180]
 
+theorem floor_pi_eq_three : ⌊π⌋ = 3 := by
+  refine Int.floor_eq_iff.mpr ⟨pi_gt_three.le, ?_⟩
+  norm_num
+  exact pi_lt_four
```
Comment (euprunin) [inline Mathlib/Analysis/Real/Pi/Bounds.lean]: Possible alternative:

```suggestion
theorem floor_pi_eq_three : ⌊π⌋ = 3 :=
  Int.floor_eq_iff.mpr (by grind [pi_gt_three, pi_lt_four])
```

File: Mathlib/Analysis/Real/Pi/Bounds.lean [hunk 2]
```diff
@@ -223,4 +223,21 @@ theorem pi_lt_d20 : π < 3.14159265358979323847 := by
...
+
+theorem ceil_pi_eq_four : ⌈π⌉ = 4 := by
+  refine Int.ceil_eq_iff.mpr ⟨?_, pi_lt_four.le⟩
+  norm_num
+  exact pi_gt_three
```
Comment (euprunin) [inline Mathlib/Analysis/Real/Pi/Bounds.lean]: Possible alternative:

```suggestion
theorem ceil_pi_eq_four : ⌈π⌉ = 4 :=
  Int.ceil_eq_iff.mpr (by grind [pi_gt_three, pi_lt_four])
```

File: Mathlib/Analysis/Real/Pi/Bounds.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Real/Pi/Bounds.lean]: Thanks! I'm not sure if I prefer those, though (same with the other). I'll wait for another opinion.

File: Mathlib/Analysis/Real/Pi/Bounds.lean [hunk 3]
```diff
@@ -223,4 +223,21 @@ theorem pi_lt_d20 : π < 3.14159265358979323847 := by
...
+
+theorem round_pi_eq_three : round π = 3 := by
+  refine round_eq _ |>.trans <| Int.floor_eq_iff.mpr ⟨?_, ?_⟩
+  · grw [← pi_gt_three]
+    norm_num
+  · grw [pi_lt_d2]
+    norm_num
```
Comment (euprunin) [inline Mathlib/Analysis/Real/Pi/Bounds.lean]: Possible alternative:

```suggestion
theorem round_pi_eq_three : round π = 3 :=
  round_eq _ |>.trans <| Int.floor_eq_iff.mpr ⟨by grind [pi_gt_three], by grind [pi_lt_d2]⟩
```

File: Mathlib/Analysis/Real/Pi/Bounds.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Analysis/Real/Pi/Bounds.lean]: I don't have a strong preference. But would this be a middle ground?
```suggestion
theorem floor_pi_eq_three : ⌊π⌋ = 3 := by
  rw [Int.floor_eq_iff]
  grind [pi_gt_three, pi_lt_four]
```

Comment (SnirBroshi) [reply Mathlib/Analysis/Real/Pi/Bounds.lean]: We can also
```suggestion
theorem floor_pi_eq_three : ⌊π⌋ = 3 :=
  Int.floor_eq_iff.mpr ⟨pi_gt_three.le, by exact_mod_cast pi_lt_four⟩
```

**Comment by SnirBroshi** [comment]
> Bounds for `exp 1` are in `Mathlib.Analysis.Complex.ExponentialBounds`.

Ooh nice, I tried loogling for `Real.exp, 2` and `Real.exp, 3` but couldn't find it, since it skips straight to 9 decimal places :)

I'm not sure if I should add it to this PR or a separate one, I'll wait to see how this one develops for now.

File: Mathlib/Analysis/Real/Pi/Bounds.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/Analysis/Real/Pi/Bounds.lean]: The second grind requires importing `Mathlib.Data.Rat.Cast.OfScientific`

**Review by j-loreaux — COMMENTED** [review]
bors merge
